US05360812
A solution of 13.0 g (38 mmol) of potassium hexacyanoferrate(III) in 40 ml of water and 3 ml of saturated sodium carbonate solution is added dropwise to a suspension of 1.0 g (6.4 mmol) of 1-methyl-2,3,4-pyrrolidinetrione-3,4-dioxime in 50 ml of ethyl acetate, and the mixture is stirred at room temperature for 2 hours. The organic phase is separated off and concentrated, and the residue is purified by flash chromatography (ethyl acetate/cyclohexane 60:40). 0.34 g (34%) of 5,6-dihydro-5-methyl-4H-pyrrolo[3,4-c][1,2,5]oxadiazole-4-one-1-oxide and -3-oxide is obtained in the ratio 1:2 (NMR), m.p. 49°-52° C.

reactant | 1-methyl-2,3,4-pyrrolidinetrione-3,4-dioxime | 6.4 mmol, 1.0 g | CN1C(C(C(C1)=NO)=NO)=O | C5H7N3O3
solvent | water | 40 ml | O | H2O
solvent | sodium carbonate | 3 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | potassium hexacyanoferrate(III) | 38 mmol, 13.0 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
product | 5,6-dihydro-5-methyl-4H-pyrrolo[3,4-c][1,2,5]oxadiazole-4-one-1-oxide | 0.34 g, 34% | CN1CC2=[N+](ON=C2C1=O)[O-] | C5H5N3O3
